US06235731B1
4) Synthesis of 1-[trans-4-[N-(tert-butoxycarbonyl)aminomethyl]-1-cyclohexylmethyl]-4-phenylpiperidine
A solution of 2.51 g (8.20 mM) of N-(trans-4-bromomethyl-1-cyclohexylmethyl)-N-(tert-butoxycarbonyl)amine, 1.32 g (8.19 mM) of 4-phenylpiperidine, and 2.3 ml (16.5 mM) of triethylamine in ethanol (10 ml) was refluxed under nitrogen for 64 hours. After cooling to room temperature, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with saturated aqueous solution of sodium chloride and dried over MgSO4. This crude product was purified by column chromatography (methanol-ethyl acetate: 10%) to provide the title compound as light-yellow solid.

reactant | N-(trans-4-bromomethyl-1-cyclohexylmethyl)-N-(tert-butoxycarbonyl)amine | 8.20 mM, 2.51 g | BrC[C@@H]1CC[C@H](CC1)CNC(=O)OC(C)(C)C | C13H24BrNO2
reactant | 4-phenylpiperidine | 8.19 mM, 1.32 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | triethylamine | 16.5 mM, 2.3 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-[trans-4-[N-(tert-butoxycarbonyl)aminomethyl]-1-cyclohexylmethyl]-4-phenylpiperidine | C(C)(C)(C)OC(=O)NC[C@@H]1CC[C@H](CC1)CN1CCC(CC1)C1=CC=CC=C1 | C24H38N2O2
